US06242493B1
Step 1: Ethyl (E)-3-(5-fluoro-2-methylphenyl)-2-propenoate
5-Fluoro-2-methylbenzaldehyde (40.58 g; 294 mmol) was converted to the ethyl cinnamate according to step 1 of example 1 to yield 40.81 g. of the title compound.

reactant | 5-Fluoro-2-methylbenzaldehyde | 294 mmol, 40.58 g | FC=1C=CC(=C(C=O)C1)C | C8H7FO
reactant | ethyl cinnamate | C(C=CC1=CC=CC=C1)(=O)OCC | C11H12O2
product | Ethyl (E)-3-(5-fluoro-2-methylphenyl)-2-propenoate | FC=1C=CC(=C(C1)/C=C/C(=O)OCC)C | C12H13FO2
